US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(tetrahydro-2H-pyran-4-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and tetrahydro-2H-pyran-4-ylamine. MS obsd. (ESI+) [(M+H)+] 438, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.89 (dd, J=6.95, 3.41 Hz, 2 H), 7.78 (s, 1 H), 7.59 (t, J=7.07 Hz, 1 H), 7.47 (t, J=7.58 Hz, 1 H), 7.31 (d, J=8.59 Hz, 1 H), 7.23 (d, J=8.59 Hz, 1 H), 6.33 (d, J=8.08 Hz, 1 H), 6.09 (s, 1 H), 5.09 (brs, 2 H), 4.44 (brs, 1 H), 3.99 (d, J=9.85 Hz, 2 H), 3.94-3.82 (m, 1 H), 3.69-3.52 (m, 4 H), 2.36 (s, 3 H), 1.85 (d, J=11.87 Hz, 2 H), 1.69-1.44 (m, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | tetrahydro-2H-pyran-4-ylamine | O1CCC(CC1)N | C5H11NO
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(tetrahydro-2H-pyran-4-yl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2CCOCC2)C)=O | C24H27N3O3S
